US07598383B2
Step B: Preparation of 4-(4-bromo-2-fluorophenylamino)-6-chloro-5-fluoro-nicotinic acid methyl ester:
A hexanes solution of TMSCH2N2 (9.46 mL, 18,9 mmol) was added to 4-(4-bromo-2-fluorophenylamino)-6-chloro-5-fluoro-nicotinic acid (4.59 g, 12.62 mmol) in a solution of 3:1 THF:MeOH (48 mL) at 0° C. The reaction mixture was warmed to room temperature and stirred for 1 hour. After quenching with AcOH, the reaction mixture was diluted with ethyl acetate and water. The layers were separated and the organic layer was washed with water, saturated NaHCO3 solution and brine. The organic layer was dried (MgSO4) and concentrated to give 4.40 g (92%) clean desired product.

reactant | TMSCH2N2 | 18,9 mmol, 9.46 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 4-(4-bromo-2-fluorophenylamino)-6-chloro-5-fluoro-nicotinic acid | 12.62 mmol, 4.59 g | BrC1=CC(=C(C=C1)NC1=C(C(=NC=C1C(=O)O)Cl)F)F | C12H6BrClF2N2O2
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | 48 mL | CO | CH4O
product | 4-(4-bromo-2-fluorophenylamino)-6-chloro-5-fluoro-nicotinic acid methyl ester | 4.40 g, 92% | COC(C1=CN=C(C(=C1NC1=C(C=C(C=C1)Br)F)F)Cl)=O | C13H8BrClF2N2O2
